US04436907
225 g of 5-bromopyrimidine were dissolved in 1.5 liters of absolute tetrahydrofuran/1,000 ml of absolute ether, and the solution was cooled to -120° C. 250 ml of 50% strength n-butyl-lithium (in n-hexane) were added dropwise to the solution, during the course of 2 hours, at an internal temperature of -105° to -115° C. The mixture was further stirred for 1 hour at this temperature. 309 ml of trimethylacetaldehyde was then added dropwise during the course of 2 hours. The reaction mixture was then further stirred for 4 hours at this temperature. The reaction mixture was allowed to warm up to room temperature overnight, and 83 g of ammonium chloride, dissolved in a minimum quantity of water, were then added to it. The aqueous phase was separated off, and the organic phase was washed twice with saturated aqueous sodium chloride solution, dried over sodium sulphate and concentrated. 155 g (56% of theory) of 5-(1-hydroxy-2,2 -dimethylpropyl)pyrimidine of melting point 94°-96° C. were obtained after recrystallization of the residue from acetonitrile.

reactant | 5-bromopyrimidine | 225 g | BrC=1C=NC=NC1 | C4H3BrN2
reactant | n-butyl-lithium | C(CCC)[Li]
reactant | trimethylacetaldehyde | 309 ml | CC(C=O)(C)C | C5H10O
reactant | ammonium chloride | 83 g | [Cl-].[NH4+]
solvent | tetrahydrofuran | 1.5 liters | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
solvent | water | O | H2O
product | 5-(1-hydroxy-2,2 -dimethylpropyl)pyrimidine | 155 g, 56% | OC(C(C)(C)C)C=1C=NC=NC1 | C9H14N2O
